data/oMe_Silver.jsonl
{"reaction_id": "NG-008_1-CC_2-C(C)(C)C_3-c1ccc(C#N)cc1","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(CC)(=O)(C(C)(C)C)","C(c1ccc(C#N)cc1)(=O)OO"],"products_smiles": ["C(CC)(=O)OC(C)(C)C"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(=[OH+])C(C)(C)C","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)([OH])(OOC(=O)c1ccc(C#N)cc1)C(C)(C)C","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC)(=[OH+])OC(C)(C)C","rationale": "A 1,2-shift occurs from the more migratory C(C)(C)C group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(=O)OC(C)(C)C","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
{"reaction_id": "NR-053_1-c1ccccc1_2-C(F)(F)F_3-c1ccccc1_4-c1ccccc1","name": "Dakin Oxidation","level": "easy","reactants_smiles": ["O=Cc1c(c1ccccc1)cc(C(F)(F)F)c(c1ccccc1)c1(c1ccccc1)","OO"],"products_smiles": ["Oc1c(c1ccccc1)cc(C(F)(F)F)c(c1ccccc1)c1(c1ccccc1)"],"conditions": "Aqueous Base (e.g. [OH-]), then Acid (e.g. HCl for workup)","mechnism_text_description": "The Dakin oxidation is the reaction between electron-rich aromatic aldehydes and hydrogen peroxide yielding phenols. It is a variant of the Baeyer-Villiger oxidation. The reaction was first described by Henry Drysdale Dakin in 1899.","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](OO)c1c(c1ccccc1)cc(C(F)(F)F)c(c1ccccc1)c1(c1ccccc1)","step_weight": 0,"rationale": "Hydroxide-activated hydrogen peroxide is a strong nucleophile, attacking the electrophilic aldehyde carbonyl due to polarization from the oxygen and resonance withdrawal by the aromatic ring substituents."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=COc1c(c1ccccc1)cc(C(F)(F)F)c(c1ccccc1)c1(c1ccccc1)","step_weight": 0,"rationale": "A 1,2-aryl shift occurs because the aromatic group stabilizes the developing positive charge via resonance, facilitating migration to the adjacent peroxide oxygen."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](O)Oc1c(c1ccccc1)cc(C(F)(F)F)c(c1ccccc1)c1(c1ccccc1)","step_weight": 0,"rationale": "Hydroxide attacks the ester-like intermediate since the carbonyl carbon is electrophilic and activated by the adjacent oxygen, promoting nucleophilic addition."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]c1c(c1ccccc1)cc(C(F)(F)F)c(c1ccccc1)c1(c1ccccc1)","step_weight": 0,"rationale": "Elimination of the formate anion occurs as it is a good leaving group under basic conditions, driven by formation of the stable phenoxide anion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Oc1c(c1ccccc1)cc(C(F)(F)F)c(c1ccccc1)c1(c1ccccc1)","step_weight": 0,"rationale": "Acid workup protonates the phenoxide to yield the neutral phenol, favored by the stability of the aromatic hydroxyl product in acidic medium."}],"description": "Under basic conditions, hydrogen peroxide attacks the electron-deficient carbonyl of the aromatic aldehyde, followed by a rearrangement that shifts the aromatic ring to oxygen. Subsequent nucleophilic addition, elimination, and acid workup yield the phenol via Dakin oxidation."}
